US03984407
The crude diethylaminopropyl tetrahydronaphthol is dissolved in 100 ml. ether and added to 500 ml. of liq. NH3. The solution is treated with 15 g. of lithium in portions. After one-half hour, the mixture is treated slowly dropwise with absolute ethanol until the color discharges completely. After removal of NH3, the residue is cooled, treated with water and extracted with ether. The dried extracts are freed of solvent leaving crude 1,2,3,4,5,8-hexahydro-1-diethylaminopropylnaphthalene which is converted to the above titled as described in Example 26.

reactant | diethylaminopropyl tetrahydronaphthol | C(C)N(CC)CCCC1(CCCC2=CC=CC=C12)O | C17H27NO
reactant | ether | CCOCC | C4H10O
reactant | NH3 | N | H3N
reactant | lithium | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
product | 1,2,3,4,5,8-hexahydro-1-diethylaminopropylnaphthalene | C(C)N(C(CC)C1CCCC=2CC=CCC12)CC | C17H29N
